US05134111
(a) Preparation of 8-ethyl-1-methoxymethoxy-2-naphthalenecarbaldehyde
300 g of 8-ethyl-1-methoxymethoxynaphthalene was dissolved in 2.2 liters of absolute ether, in which 1.3 liters of a hexane solution of 1.6M n-butyl lithium was gently dropped at -20° C. in a stream of nitrogen. After the dropping, the solution was raised to room temperature and agitated for 2 hours. It was again cooled down to -40° C., to which 215 ml of N,N-dimethylformamide was added. After agitation for 30 minutes, 100 ml of water was added and the resultant organic phase was washed with a saturated saline solution. After drying with anhydrous magnesium sulfate, the solvent was distilled off and the residue was purified by silica gel column chromatography (5% ethyl acetate/hexane) to obtain 253 g of the captioned compound as colorless crystals.

reactant | 8-ethyl-1-methoxymethoxynaphthalene | 300 g | C(C)C=1C=CC=C2C=CC=C(C12)OCOC | C14H16O2
reactant | N,N-dimethylformamide | 215 ml | CN(C=O)C | C3H7NO
reactant | water | 100 ml | O | H2O
solvent | ether | 2.2 liters | CCOCC | C4H10O
solvent | hexane | 1.3 liters | CCCCCC | C6H14
solvent | n-butyl lithium | 1.6M | C(CCC)[Li]
product | 8-ethyl-1-methoxymethoxy-2-naphthalenecarbaldehyde | 253 g | C(C)C=1C=CC=C2C=CC(=C(C12)OCOC)C=O | C15H16O3
